US08314109B2
To a suspension of 160 mg of 6-bromo-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in 10 mL of tolene are added 260 μL of hexamethyldistannane and 30 mg of tetrakis-(triphenylphosphine)palladium(0). The reaction mixture is heated for 2 hours at reflux and then stirred for 16 hours at room temperature and filtered through a pad of Celite. The filtrate is concentrated under reduced pressure and the residue is chromatographed on a silica cartridge, eluting with dichloromethane. The fractions containing the expected product are combined and evaporated to dryness under reduced pressure to give 163 mg of 6-trimethylstannyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in the form of a yellow solid.

reactant | 6-bromo-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 160 mg | BrC=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C14H10BrN3O
reactant | hexamethyldistannane | 260 μL | C[Sn]([Sn](C)(C)C)(C)C
product | 6-trimethylstannyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 163 mg | C[Sn](C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2)(C)C | InChI=1S/C14H10N3O.3CH3.Sn/c18-14(15-11-6-2-1-3-7-11)12-10-17-9-5-4-8-13(17)16-12;;;;/h1-4,6-10H,(H,15,18);3*1H3;
